US07531546B2
To a solution of 8-methanesulfonyl-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester (1.32 g) in ethyl acetate (10 ml), a 1 M ethyl acetate solution of HCl (20 ml). After stirring for 2 h at room temperature, solvent is evaporated down to give 8-methanesulfonyl-2,8-diaza-spiro[4.5]decane hydrochloride as a solid.

reactant | 8-methanesulfonyl-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 1.32 g | C(C)(C)(C)OC(=O)N1CC2(CC1)CCN(CC2)S(=O)(=O)C | C14H26N2O4S
reactant | HCl | 20 ml | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 M | C(C)(=O)OCC | C4H8O2
product | 8-methanesulfonyl-2,8-diaza-spiro[4.5]decane hydrochloride | Cl.CS(=O)(=O)N1CCC2(CCNC2)CC1 | InChI=1S/C9H18N2O2S.ClH/c1-14(12,13)11-6-3-9(4-7-11)2-5-10-8-9;/h10H,2-8H2,1H3;1H
